US08022062B2
(±)-7-Chloro-6-(1-pyridin-2-yl-propylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine Hydrochloride
Use method similar to the Preparation 177 to react 3-tert-butoxycarbonyl-7-chloro-6-dimethylcarbamoylthio-2,3,4,5-tetrahydro-1H-benzo[d]azepine with (±)-2-(1-bromopropyl)pyridine. Use a method similar to the General Procedure 1-5, basic workup, and a method similar to the General Procedure 2-2 to give the title compound as a white solid. MS (APCI+) m/z: 333 (M+H)+.

reactant | 3-tert-butoxycarbonyl-7-chloro-6-dimethylcarbamoylthio-2,3,4,5-tetrahydro-1H-benzo[d]azepine | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)SC(N(C)C)=O | C18H25ClN2O3S
reactant | (±)-2-(1-bromopropyl)pyridine | BrC(CC)C1=NC=CC=C1 | C8H10BrN
product | (±)-7-Chloro-6-(1-pyridin-2-yl-propylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine Hydrochloride | Cl.ClC1=C(C2=C(CCNCC2)C=C1)SC(CC)C1=NC=CC=C1 | InChI=1S/C18H21ClN2S.ClH/c1-2-17(16-5-3-4-10-21-16)22-18-14-9-12-20-11-8-13(14)6-7-15(18)19;/h3-7,10,17,20H,2,8-9,11-12H2,1H3;1H
